US08084614B2
A mixture of 4-{2-[(3-bromo-4-chloro-benzoyl)-methyl-amino]-phenyl}-butyric acid methyl ester (500 mg, 1.18 mmol), bis(pinacolato)diboron (448 mg, 1.76 mmol), Pd(dppf)2Cl2 (69 mg, 0.094 mmol) and potassium acetate (347 mg, 3.54 mmol) in dioxane (10 mL) was degassed by bubbling N2 for 5 minutes and then heated under sealed condition to 95° C. for 14 hrs. Upon cooling to room temperature, the mixture was diluted with ethyl acetate and washed with water and brine, then dried over Na2SO4. Concentration and purification by silica gel column chromatography eluting with ethyl acetate/hexane (1/4 up to 2/3) gave 4-(2-{[4-chloro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoyl]-methyl-amino}-phenyl)-butyric acid methyl ester as an oil (601 mg). MS [M+H]+: 472.2; tR=2.57 min. (method 1)

reactant | 4-{2-[(3-bromo-4-chloro-benzoyl)-methyl-amino]-phenyl}-butyric acid methyl ester | 1.18 mmol, 500 mg | COC(CCCC1=C(C=CC=C1)N(C)C(C1=CC(=C(C=C1)Cl)Br)=O)=O | C19H19BrClNO3
reactant | bis(pinacolato)diboron | 1.76 mmol, 448 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.54 mmol, 347 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)2Cl2 | 0.094 mmol, 69 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(2-{[4-chloro-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoyl]-methyl-amino}-phenyl)-butyric acid methyl ester | 601 mg | COC(CCCC1=C(C=CC=C1)N(C)C(C1=CC(=C(C=C1)Cl)B1OC(C(O1)(C)C)(C)C)=O)=O | C25H31BClNO5
